US04315939
6.0 g of 1-(2-carboethoxy-4,5-dimethyl-pyrrol-3-oxy)-3-chloro-propan-2-ol and 3.5 g of 4-hydroxy-4-phenylpiperidine in 150 ml of dioxane are heated for 15 hours in an autoclave at 120° C. The volatile constituents are then distilled off under reduced pressure, and the very viscous crude product is partitioned between ether and 2 N sulfuric acid. The aqueous phase is cautiously rendered alkaline with 4 N sodium hydroxide solution and is then extracted with ether. The ether phase is dried over magnesium sulfate, the solvent is removed and the residue which remains is, as described in Example 2, dissolved in a small amount of methanol and treated with a solution of hydrogen chloride in ether, to give 3.2 g of 3-[2-hydroxy-3-(4-phenyl-4-hydroxy-piperidino)-propoxy]-4,5-dimethylpyrrole-2-carboxylic acid ethyl ester hydrochloride, of melting point 210°-212° C.

reactant | 1-(2-carboethoxy-4,5-dimethyl-pyrrol-3-oxy)-3-chloro-propan-2-ol | 6.0 g | C(=O)(OCC)C=1NC(=C(C1OCC(CCl)O)C)C | C12H18ClNO4
reactant | 4-hydroxy-4-phenylpiperidine | 3.5 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 3-[2-hydroxy-3-(4-phenyl-4-hydroxy-piperidino)-propoxy]-4,5-dimethylpyrrole-2-carboxylic acid ethyl ester hydrochloride | 3.2 g | Cl.C(C)OC(=O)C=1NC(=C(C1OCC(CN1CCC(CC1)(O)C1=CC=CC=C1)O)C)C | InChI=1S/C23H32N2O5.ClH/c1-4-29-22(27)20-21(16(2)17(3)24-20)30-15-19(26)14-25-12-10-23(28,11-13-25)18-8-6-5-7-9-18;/h5-9,19,24,26,28H,4,10-15H2,1-3H3;1H
